US09055743B2
Thus, for example, J. Med. Chem. 2000, 43, 3837-3851 describes the cyclization of 4-chloro-5-(2-chloroethyl)-6-methylpyrimidine-2-amine with benzylamine in the presence of triethylamine and n-butanol to give 7-benzyl-4-methyl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine-2-amine.

reactant | 4-chloro-5-(2-chloroethyl)-6-methylpyrimidine-2-amine | ClC1=NC(=NC(=C1CCCl)C)N | C7H9Cl2N3
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | n-butanol | C(CCC)O | C4H10O
product | 7-benzyl-4-methyl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine-2-amine | C(C1=CC=CC=C1)N1CCC2=C1N=C(N=C2C)N | C14H16N4
